US07692027B2
10 g of telmisartan are suspended in 40 ml of THF in a round-bottom flask equipped with magnetic stirrer, condenser and under nitrogen atmosphere. The solution is added with 1.5 ml of 50% aq NaOH and the mixture is heated under reflux, then evaporated to a residue. 10.4 g of telmisartan sodium salt are obtained.

reactant | 4′-[[4-Methyl-6-(1-methyl-2-benzimidazolyl)-2-propyl-1-benzimidazolyl]methyl]-2-biphenylcarboxylic acid | 10 g | CC1=CC(=CC=2N(C(=NC21)CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O)C2=NC1=C(N2C)C=CC=C1 | C33H30N4O2
reactant | NaOH | 1.5 ml | [OH-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4′-[[4-Methyl-6-(1-methyl-2-benzimidazolyl)-2-propyl-1-benzimidazolyl]methyl]-2-biphenylcarboxylic acid sodium salt | 10.4 g | [Na+].CC1=CC(=CC=2N(C(=NC21)CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)[O-])C2=NC1=C(N2C)C=CC=C1 | InChI=1S/C33H30N4O2.Na/c1-4-9-30-35-31-21(2)18-24(32-34-27-12-7-8-13-28(27)36(32)3)19-29(31)37(30)20-22-14-16-23(17-15-22)25-10-5-6-11-26(25)33(38)39;/h5-8,10-19H,4,9,20H2,1-3H3,(H,38,39);/q;+1/p-1
